US05354501
In a 10 liter-reaction vessel, 143 g (6.2 mol(M)) of metal sodium which had been cut small was added to 3.1 liters of anhydrous ethanol and dissolved therein. To the solution, 1025 g (6.4M) of diethyl malonate was added dropwise in 30 minutes at 40°-50° C. and 1200 g (6.2M) of n-octylbromide was further added thereto in 10 minutes at 40°-50° C., followed by heat-refluxing for 3 hours. After the reaction, about 2.5 liters of ethanol was distilled off from the reaction mixture. 2.5 liters of water was added to the residue and 2 liters of benzene was further added thereto to effect extraction. After the benzene layer was washed with saturated aqueous solution of common salt until the benzene layer showed neutrality, the resultant mixture was dried with anhydrous sodium sulfate, followed by distilling-off of benzene to obtain 1333 g of a crude product of diethyl 2-octylmalonate (Yield: 79%).

reactant | sodium | [Na] | Na
reactant | diethyl malonate | 6.4M, 1025 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | n-octylbromide | 6.2M, 1200 g | C(CCCCCCC)Br | C8H17Br
solvent | ethanol | about 2.5 liters | C(C)O | C2H6O
solvent | ethanol | 3.1 liters | C(C)O | C2H6O
product | diethyl 2-octylmalonate | Yield: 79% | C(CCCCCCC)C(C(=O)OCC)C(=O)OCC | C15H28O4
